US04616014
A solution of 3-(2-formylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine (2.71 g) in acetic acid (60 ml) was hydrogenated over 5% palladium on carbon (2 g) under atmospheric pressure at room temperature. After the theoretical amount of hydrogen gas was absorbed, the catalyst was filtered off, washed with methanol, and the filtrate was evaporated. The residue was dissolved in water, and the solution was washed with chloroform, neutralized with an aqueous solution of sodium carbonate, and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The resultant residue was recrystallized from methanol to give colorless crystals of 3-(2-formylhydrazino)-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine (0.59 g), m.p. 216°~219° C. (decomp.).

reactant | 3-(2-formylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine | 2.71 g | C(=O)NNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C11H11N5O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 3-(2-formylhydrazino)-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine | 0.59 g | C(=O)NNC=1NN=C(C(N1)C)C1=CC=CC=C1 | C11H13N5O
